US08048909B2
2-Chloro-4-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzonitrile hydrochloride
Using 2-chloro-4-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzonitrile (248 mg), 40% methylamine methanol solution (1.4 mL) and sodium borohydride (28.9 mg), a procedure as in Example 9 was performed to give the title compound as white crystals (yield 67.8 mg, 24%).

reactant | 2-chloro-4-[(4-formyl-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzonitrile | 248 mg | ClC1=C(C#N)C=CC(=C1)S(=O)(=O)N1C(=CC(=C1)C=O)C1=CC=CC=C1 | C18H11ClN2O3S
reactant | methylamine methanol | 1.4 mL | CO.CN
reactant | sodium borohydride | 28.9 mg | [BH4-].[Na+]
product | 2-Chloro-4-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzonitrile hydrochloride | yield 67.8 mg, 24% | Cl.ClC1=C(C#N)C=CC(=C1)S(=O)(=O)N1C(=CC(=C1)CNC)C1=CC=CC=C1 | InChI=1S/C19H16ClN3O2S.ClH/c1-22-12-14-9-19(15-5-3-2-4-6-15)23(13-14)26(24,25)17-8-7-16(11-21)18(20)10-17;/h2-10,13,22H,12H2,1H3;1H
